US06635640B2
Palladium catalyst Pd(PPh3)4 (714 mg, 0.6 mmol) and freshly prepared aqueous sodium hydroxide (2.47 g, 61.8 mmol in 22 mL of water) were added to a mixture of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole (5 g, 20.6 mmol) and 2-bromopyridine (2 mL, 20.8 mmol) in THF (70 mL). The system was degassed and then purged three times with nitrogen. The mixture was stirred under nitrogen at 70° C. in an oil bath for 6 hours. It was then cooled to room temperature and 400 ml ethyl acetate was added. The organic layer was isolated, washed with brine, dried over anhydrous Na2SO4 and concentrated. The residue was triturated with dichloromethane to give 2.85 g (71%) of 4-pyridin-2-yl-1H-indole as a pale yellow solid.

reactant | sodium hydroxide | 61.8 mmol, 22 mL, 2.47 g | [OH-].[Na+]
reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole | 20.6 mmol, 5 g | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | 2-bromopyridine | 20.8 mmol, 2 mL | BrC1=NC=CC=C1 | C5H4BrN
catalyst | Palladium | 0.6 mmol, 714 mg | [Pd] | Pd
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-pyridin-2-yl-1H-indole | 2.85 g, 71% | N1=C(C=CC=C1)C1=C2C=CNC2=CC=C1 | C13H10N2
